US08648066B2
Methyl 5-bromo-2-chloropyridin-3-ylcarbamate.
Prepared according to the methods described in reagent preparation 26 using 5-bromo-2-chloropyridin-3-amine and methyl chloroformate in step 1.

reactant | 5-bromo-2-chloropyridin-3-amine | BrC=1C=C(C(=NC1)Cl)N | C5H4BrClN2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | Methyl 5-bromo-2-chloropyridin-3-ylcarbamate | BrC=1C=C(C(=NC1)Cl)NC(OC)=O | C7H6BrClN2O2
